US07034039B2
A suspension of tert-butyl[4-(4-fluorophenyl)-2-isobutyl-1-oxo-6-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinyl]methylcarbamate (2.00 g, 3.5 mmol), butyl acrylate (0.76 ml, 5.3 mmol), sodium hydrogencarbonate (0.45 g, 5.5 mmol), tetrabutylammonium chloride (0.11 g, 0.4 mmol) and palladium acetate (90 mg, 0.4 mmol) in N,N-dimethylformamide (30 ml) was stirred with heating at 100° C. under an argon atmosphere for 24 h. The reaction mixture was poured into water and extracted with ethyl acetate. After washing the extract with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give butyl (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenate as an amorphous.

reactant | tert-butyl[4-(4-fluorophenyl)-2-isobutyl-1-oxo-6-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 3.5 mmol, 2.00 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)OS(=O)(=O)C(F)(F)F)=O)CC(C)C)=O | C26H28F4N2O6S
reactant | butyl acrylate | 5.3 mmol, 0.76 ml | C(C=C)(=O)OCCCC | C7H12O2
reactant | sodium hydrogencarbonate | 5.5 mmol, 0.45 g | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
catalyst | tetrabutylammonium chloride | 0.4 mmol, 0.11 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.4 mmol, 90 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | butyl (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenate | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)/C=C/C(=O)OCCCC)=O)CC(C)C | C32H39FN2O5
